US03953595
3-Benzyloxy-5-trifluoromethylbenzoic Acid
To a solution resulting from 206 mg. (1 m mole) of 3-hydroxy-5-trifluoromethylbenzoic acid* and 85 mg. (2 m moles) of a 56.6% oil suspension of sodium hydride in 2 ml. of dimethylsulfoxide is added 127 mg. (1 m mole) of benzyl chloride and the reaction mixture heated to 90° C. for 1-2 hours. The mixture is cooled to room temperature, diluted with 10 ml. of water and extracted with ether. The aqueous phase is separated and acidified with 6N hydrochloric acid. The precipitated produce is filtered, dried and sublimed at 125° C. and .05 mm pressure, m.p. 143°-145° C.

reactant | 3-hydroxy-5-trifluoromethylbenzoic acid | OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H5F3O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 3-Benzyloxy-5-trifluoromethylbenzoic Acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C15H11F3O3
